US04022832
2-[(2-Aminoacetamido-5-bromo-α-phenylbenzylidene)amino]ethanol
To a solution of 3.2g of 2-(2-amino-5-bromo-α-phenylbenzylideneamino)ethanol and 2.6g of trichloroacetylglycine in 50ml of dichloromethane is added 2.5g of N,N'-dicyclohexylcarbodiimide at 0° C., the temperature of the mixture is then raised gradually to room temperature and stirring is continued for 3 hours. After completion of the reaction, the precipitates formed in the reaction mixture is removed by filtration, and the solvent is evaporated from the filtrate to give 4.3g of a crystalline substance melting at 175°-176° C. The crystals are dissolved in a mixture of 80ml of methanol and 80ml of tetrahydrofuran, a solution of 4.0g of sodium carbonate in 80ml of water is added to this solution, and the mixture is stirred at room temperature overnight. After completion of the reaction, the solvent is evaporated from the reaction mixture, the residue extracted with dichloromethane, the extract washed with water, dried over anhydrous sodium sulfate, and the solvent is removed by distillation to give the desired product, which is recrystallized from ethyl acetate affording 0.96g of the desired product melting at 153°-154° C.

reactant | 2-(2-amino-5-bromo-α-phenylbenzylideneamino)ethanol | 3.2g | NC1=C(C(C2=CC=CC=C2)=NCCO)C=C(C=C1)Br | C15H15BrN2O
reactant | trichloroacetylglycine | 2.6g | ClC(C(=O)NCC(=O)O)(Cl)Cl | C4H4Cl3NO3
reactant | N,N'-dicyclohexylcarbodiimide | 2.5g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | sodium carbonate | 4.0g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 50ml | ClCCl | CH2Cl2
solvent | methanol | 80ml | CO | CH4O
solvent | tetrahydrofuran | 80ml | O1CCCC1 | C4H8O
solvent | water | 80ml | O | H2O
product | 2-[(2-Aminoacetamido-5-bromo-α-phenylbenzylidene)amino]ethanol | NCC(=O)NC1=C(C(C2=CC=CC=C2)=NCCO)C=C(C=C1)Br | C17H18BrN3O2
